US07045545B1
2-(5-fluorobenzofur-7-yl)propionamide
To a solution of 0.27 gm (1.15 mMol) ethyl 2-(5-fluorobenzofur-7-yl)propionate in 4 mL dimethylformamide were added sequentially 0.16 mL (3.91 mMol) freshly distilled formamide and 0.81 mL (0.80 mMol) sodium methoxide (1 M in methanol) dropwise and the resulting mixture was heated at 100° C. for 45 minutes. The reaction mixture was cooled to room temperature and was then diluted with 25 volumes of ethyl acetate. The mixture was then washed sequentially with water and saturated aqueous sodium chloride, and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with 2:1 ethyl acetate:hexane. Fractions containing product were combined and concentrated under reduced pressure to provide 0.060 gm (25%) of the desired compound.

reactant | ethyl 2-(5-fluorobenzofur-7-yl)propionate | 1.15 mMol, 0.27 gm | FC=1C=C(C2=C(C=CO2)C1)C(C(=O)OCC)C | C13H13FO3
reactant | formamide | C(=O)N | CH3NO
reactant | sodium methoxide | 0.80 mMol, 1 M, 0.81 mL | C[O-].[Na+]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-fluorobenzofur-7-yl)propionamide | 0.060 gm, 25% | FC=1C=C(C2=C(C=CO2)C1)C(C(=O)N)C | C11H10FNO2
